US05998433
c) Synthesis of 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl)propan-1-one hydrochloride
1-(2-Dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl)propan-1-one 0.293 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | 1-(2-Dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl)propan-1-one | 0.293 g | CN(C)CC1=CC=2CN(CCC2O1)C(CCC1=CC(=CC=C1)CCC1=CC=CC=C1)=O | C27H32N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl)propan-1-one hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(CCC1=CC(=CC=C1)CCC1=CC=CC=C1)=O | InChI=1S/C27H32N2O2.ClH/c1-28(2)20-25-18-24-19-29(16-15-26(24)31-25)27(30)14-13-23-10-6-9-22(17-23)12-11-21-7-4-3-5-8-21;/h3-10,17-18H,11-16,19-20H2,1-2H3;1H
